### PR TITLE
[Merged by Bors] - chore(RingTheory): fix whitespace

### PR DESCRIPTION
**Pull request by harahu**
Found by extending the commandStart linter to proof bodies.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 1]
```diff
@@ -783,10 +783,10 @@ theorem isCoprime_biInf {J : ι → Ideal R} {s : Finset ι}
...
       set K := ⨅ j ∈ s, J j
       calc
-        1 = I + K            := (hs fun j hj ↦ hf j (Finset.mem_insert_of_mem hj)).symm
-        _ = I + K*(I + J i)  := by rw [hf i (Finset.mem_insert_self i s), mul_one]
-        _ = (1+K)*I + K*J i  := by ring
-        _ ≤ I + K ⊓ J i      := add_le_add mul_le_left mul_le_inf
+        1 = I + K := (hs fun j hj ↦ hf j (Finset.mem_insert_of_mem hj)).symm
+        _ = I + K*(I + J i) := by rw [hf i (Finset.mem_insert_self i s), mul_one]
+        _ = (1+K)*I + K*J i := by ring
+        _ ≤ I + K ⊓ J i := add_le_add mul_le_left mul_le_inf
```
Comment (adomani) [inline Mathlib/RingTheory/Ideal/Operations.lean]: These changes may require some general discussion.

**Review by adomani — COMMENTED** [review]
Thanks!

I find all the changes in this PR an improvement.  The only place where I am not sure that there is an accepted guideline is about "formatting" spaces.

It may be a good idea to bring this up (again?) on Zulip to see if there is consensus.  If that is the case, then I think that it should also be added to the style guidelines.

File: Mathlib/RingTheory/Ideal/Operations.lean (hunk 1 above)
Comment (harahu) [reply Mathlib/RingTheory/Ideal/Operations.lean]: I reverted the part of the change that messed up the manual alignment. I think it is better to get this PR merged. A discussion can happen independently.

**Review by adomani — COMMENTED** [review]
Thanks!  🐙 

bors merge
